US07091215B2
1-[(Cyclopropylmethyl)[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amino-2-propanol
Cyclopropanecarboxyaldehyde (0.047 mL) and 3 M sulfuric acid (0.21 mL) were added to a solution of 2-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amino-1-methylethyl benzoate (100 mg) in tetrahydrofuran (0.7 mL) while cooling on ice, and then sodium borohydride (16 mg) was slowly added thereto at the same temperature. The mixture was stirred for 30 minutes at room temperature, and then 5 N aqueous sodium hydroxide (0.3 mL) was added while cooling on ice to make the reaction mixture basic. Methanol (2.1 mL) was added to the reaction mixture, and after heating to reflux for 1 hour, it was returned to room temperature, extraction was performed with ethyl acetate, and the extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:5) to obtain the title compound (80 mg) as a yellow oil.

reactant | sulfuric acid | 3 M, 0.21 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amino-1-methylethyl benzoate | 100 mg | C(C1=CC=CC=C1)(=O)OC(CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC)C | C27H29N3O3S
reactant | sodium borohydride | 16 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 5 N, 0.3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 0.7 mL | O1CCCC1 | C4H8O
solvent | Methanol | 2.1 mL | CO | CH4O
product | (Cyclopropylmethyl)[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amino-2-propanol | 80 mg | C1(CC1)CC(C(C)O)NC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C24H31N3O2S
